* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4625-1.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 18
Rf OUT N001 49.9K
Id N001 0 PULSE(0 200u 1u 1p 1p 2u 3u 2)
CF OUT N001 3p
Cd N001 0 6p
Rsh N001 0 2G
X§U1 0 N001 +V -V OUT ADA4625-1
V2 -V 0 -18
* PhotoDiode
* PDB-C134
.tran 6u
.lib ADA4625-1.lib
.backanno
.end
